US04394515
Methyl 10,11-dihydrodibenzo[b,f]thiepin-3-carboxylate-5-oxide
540 Mg. methyl-10,11-dihydrodibenzo[b,f]thiepin-3-carboxylate is dissolved in 40 cc methylene chloride and m-chloroperbenzoic acid is added in small portions until TLC shows very little starting material left. Excess calcium hydroxide powder is added and the mixture filtered through celite. The organic layer is evaporated and the residue chromatographed on silica gel to afford 570 mg. (94.7%).

reactant | methyl-10,11-dihydrodibenzo[b,f]thiepin-3-carboxylate | COC(=O)C=1C=CC2=C(SC3=C(CC2)C=CC=C3)C1 | C16H14O2S
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | calcium hydroxide | [OH-].[Ca+2].[OH-]
solvent | methylene chloride | 40 cc | C(Cl)Cl | CH2Cl2
product | Methyl 10,11-dihydrodibenzo[b,f]thiepin-3-carboxylate-5-oxide | C1=CC(=CC=2S(C3=C(CCC21)C=CC=C3)=O)C(=O)OC | C16H14O3S
